US05171753
2-Methyl-2-[(2-hydroxy-1,2-diphenylethyl)amino]-1,3-propanediol.
A mixture of trans-stilbene oxide (2.00 g, 0.010 mol) and 2-amino-2-methyl-1,3-propanediol (3.15 g, 0.030 mol) was heated at 150° C. for 3 hours. The reaction mixture was dissolved in 20 mL of methanol and diluted with water to form a white solid. The solid was collected, washed with water and dried for 18 hours under ambient conditions to obtain 2.46 g (82%) of the product. Recrystallization from toluene gave 2.38 g of material; mp 144°-145° C.

reactant | trans-stilbene oxide | 0.010 mol, 2.00 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-amino-2-methyl-1,3-propanediol | 0.030 mol, 3.15 g | NC(CO)(CO)C | C4H11NO2
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | 2-Methyl-2-[(2-hydroxy-1,2-diphenylethyl)amino]-1,3-propanediol | 2.46 g, 82% | CC(CO)(CO)NC(C(C1=CC=CC=C1)O)C1=CC=CC=C1 | C18H23NO3
